US09120749B2
1-(6-(3,5-dichloro-4-hydroxyphenyl)-4-((4-((dimethylamino)methyl)phenyl)amino)quinolin-3-yl)butan-1-one dihydrochloride
To a suspension of 1-(6-(3,5-dichloro-4-hydroxyphenyl)-4-((4-((dimethylamino)methyl)phenyl)amino)quinolin-3-yl) butan-1-one (6.5 mg, 0.0082 mmol) in methanol (4 mL) was added 2N HCl in ether (2.0 mL, 4 mmol). The resultant clear yellow solution was concentrated to afford the desired product as a yellow solid. 1H NMR (500 MHz, MeOD) δ 9.35 (s, 1H), 8.23 (dd, J=8.8, 1.9 Hz, 1H), 8.03 (d, J=8.8 Hz, 1H), 7.85 (d, J=1.9 Hz, 1H), 7.78-7.72 (m, 2H), 7.65-7.58 (m, 2H), 7.18 (s, 2H), 4.48 (s, 2H), 3.20 (t, J=7.2 Hz, 2H), 2.88 (s, 6H), 1.81 (h, J=7.3 Hz, 2H), 1.07 (t, J=7.4 Hz, 3H). ESI MS m/z 508 [C28H27Cl2N3O2+H]+; HPLC 93.5% (AUC), tR=11.88 min.

reactant | 1-(6-(3,5-dichloro-4-hydroxyphenyl)-4-((4-((dimethylamino)methyl)phenyl)amino)quinolin-3-yl) butan-1-one | 0.0082 mmol, 6.5 mg | ClC=1C=C(C=C(C1O)Cl)C=1C=C2C(=C(C=NC2=CC1)C(CCC)=O)NC1=CC=C(C=C1)CN(C)C | C28H27Cl2N3O2
reactant | HCl | 2N | Cl | ClH
reactant | ether | 4 mmol, 2.0 mL | CCOCC | C4H10O
solvent | methanol | 4 mL | CO | CH4O
product | 1-(6-(3,5-dichloro-4-hydroxyphenyl)-4-((4-((dimethylamino)methyl)phenyl)amino)quinolin-3-yl)butan-1-one dihydrochloride | Cl.Cl.ClC=1C=C(C=C(C1O)Cl)C=1C=C2C(=C(C=NC2=CC1)C(CCC)=O)NC1=CC=C(C=C1)CN(C)C | InChI=1S/C28H27Cl2N3O2.2ClH/c1-4-5-26(34)22-15-31-25-11-8-18(19-13-23(29)28(35)24(30)14-19)12-21(25)27(22)32-20-9-6-17(7-10-20)16-33(2)3;;/h6-15,35H,4-5,16H2,1-3H3,(H,31,32);2*1H
